Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / IV Dye, Iodine Containing / 
Abacavir Sulfate / Dapsone / Wellbutrin / Mepron
 
Attending: ___.
 
Chief Complaint:
neck mass
 
Major Surgical or Invasive Procedure:
Excision right submandibular gland

 
History of Present Illness:
___ with history of HIV and CAD presents for evaluation of a
neck mass. The patient states he thinks this has been presents
since ___ when he was diagnosed with HIV, but fluctuates in
size. When enlarged, the lump is usually painful, ___. He has
a history of heavy smoking 2ppd ___ years but quit ___ years ago. 

Also has a history of ETOH abuse, quit ___ years ago. 
 
Past Medical History:
ADMISSION                                             ___

HYPOXIA                                               ___
COPD                                                            

PNEUMONIA                                                       

LUNG NODULES  

HIV/AIDS                                                  

 
Social History:
___
Family History:
+/- depression in grandmother, +EtOH on both sides of her 
family. Father with extensive EtOH history
Mother with CAD and respiratory issues
 
Physical Exam:
Physical Exam:
Gen: No acute distress
HEENT: Incision clean dry and intact. JP holding self-suction
with serosanguinous drainage. Cranial nerves 5, 9, 11 intact
bilaterally. Mild marginal mandibular nerve weakness noted on 
the
R. 
CV: Hemodynamically stable
Resp: Unlabored breathing
Neuro: Alert and oriented
 
Brief Hospital Course:
The patient was admitted to the Otolaryngology-Head and Neck 
Surgery Service after undergoing excision of the right 
submandibular gland.  
 
Please see the separately dictated operative note for details of 
procedure. The patient was extubated and transferred to the 
hospital floor for further post-operative care. The 
post-operative course was uneventful and the patient was 
discharged to home. 
 
Hospital Course by Systems:
 
Neuro: Pain was well controlled, initially with IV regimen which 
was transitioned to oral regimen once tolerating oral intake. 
Post-operative anti-emetics were given PRN. 
Cardiovascular: Remained hemodynamically stable.  
Pulmonary: Oxygen was weaned and the patient was ambulating 
independently without supplemental oxygen prior to discharge.
HEENT: Drain placed intraoperatively was monitored closely until 
output was minimal and was removed. Mild right marginal 
mandibular nerve weakness was noted. 
GI: Diet was advanced as tolerated. Bowel regimen was given prn.
GU: Patient was able to void independently.
Heme: Received Lovenox subcutaneously and pneumatic compression 
boots for DVT prophylaxis.
Endocrine: Monitored without any remarkable issues.
ID: Received perioperative antibiotics 
 
At time of discharge, the patient was in stable condition, 
ambulating and voiding independently, and with adequate pain 
control.  The patient was given instructions to follow-up in 
clinic as scheduled. Pt was given detailed discharge 
instructions outlining wound care, activity, diet, follow-up and 
the appropriate medication scripts.
 
 
Medications on Admission:
albuterol
aripiprazole
Biktarvy
Duloxetine
fluticasone-salmeterol diskus
lamotrigine
methylphenidate
Montelukast
tiotropium bromide
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours prn Disp #*56 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth q4-6h Disp #*20 Tablet 
Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath or 
wheezing  
5.  ARIPiprazole 15 mg PO DAILY  
6.  Bictegrav-Emtricit-Tenofov Ala 1 TAB PO DAILY  
7.  DULoxetine ___ 60 mg PO DAILY  
8.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
9.  LamoTRIgine 150 mg PO DAILY  
10.  methylphenidate HCl 10 mg oral TID  
11.  Montelukast 10 mg PO DAILY  
12.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sialadenitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Otolaryngology – Head and Neck Surgery
Post-Operative Instructions 

ACTIVITY
•Go home and rest today.
•If you have received general anesthesia, you may feel tired 
and drowsy for a few hours. You should not drink alcoholic 
beverages, drive, operate any machinery, or make legal decision 
for 24 hours.
•You need to avoid strenuous activity for 2 weeks
•Do NOT lift any weight greater than 10 Lbs for 2 weeks.

FLUIDS & DIET
•Start with liquids and, if tolerated, you can eat normal 
foods.

MEDICATIONS
•Take pain medication as prescribed.
•Resume other medications as prescribed except any aspirin or 
aspirin containing products unless cleared by your surgeon.

CARE OF PROCEDURE SITE
•Some swelling of the neck incision is expected
•You may note some bloody looking drainage from the region 
where the plastic drain was removed for up to 5 days.
•Apply antibiotic ointment to your incision twice daily for 7 
days after surgery, then STOP antibiotic ointment and use 
vaseline. If there is tape on your incision apply the ointment 
over the tape.
•Keep incision dry for 3 days. You may be able to take a bath 
from your shoulders down as long as the incision stays dry. The 
tape will start to fall off on its own. After 3 days of keeping 
the incision dry you may shower normally. 
•If there are any crusts/clots on your wound you may gently 
clean them with a Q-tip and Half strength  hydrogen peroxide 
(10cc water + 10cc peroxide) as needed. Do not be too vigorous 
or your stitches or staples may break
•The stitches do not need to be removed as they are 
dissolvable.

WHEN TO CALL YOUR DOCTOR
•Excessive redness of your incision site
•Fever greater than 101 degrees Fahrenheit
•Sudden excessive swelling of incision site

For questions or problems, please call ___ and ask to 
speak to the nurse during clinic hours.

After hours, or on weekends, dial ___ and ask the 
operator to page the Otolaryngology resident on-call.

 
Followup Instructions:
___